US07342115B2
A solution of LiAlH4 (1 M in THF, 2 mL, 2 mmol) is added to a solution of 6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-nicotinic acid methyl ester (200 mg, 0.54 mmol) in THF (5 mL) at 0° C. The mixture is warmed to room temperature and stirred for 2 hours. The mixture is cooled to 0° C. and Na2SO4.10H2O is added to quench the reaction. The mixture is filtered through Celite and the filtrate is concentrated in vacuo. The crude product is purified by PTLC (hexanes/ethyl acetate 3:1) to give [6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-pyridin-3-yl]-methanol as a white solid. 1H NMR: (CDCl3) 7.28 (t, 1H), 7.14 (d, 2H), 6.99 (S, 1H), 4.92 (d, 2H), 3.97 (s, 3H), 2.28 (m, 4H), 1.05 (m, 6H).

reactant | LiAlH4 | 2 mmol, 1 M, 2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-nicotinic acid methyl ester | 0.54 mmol, 200 mg | COC(C1=C(N=C(C=C1OC)C1=C(C=CC=C1CC)CC)C(F)(F)F)=O | C19H20F3NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [6-(2,6-diethyl-phenyl)-4-methoxy-2-trifluoromethyl-pyridin-3-yl]-methanol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C(F)(F)F)CO)OC | C18H20F3NO2
